US06432982B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-fluoro-4-hydroxyphenyl]methanone
500 mg (1.2 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-fluoro-4-methoxyphenyl]methanone was dissolved in 6 mL of DMF and 200 mg (2.4 mmol) of NaSEt was added. The reaction was heated to 80° C. for 1.5 hours under a nitrogen atmosphere. The reaction mixture quickly filtered over a silica gel column eluted with CHCl3 to remove the solids and exchange the solvent. The effluent from the column was evaporated to a solid and re-dissolved in EtOAc. The EtOAc solution was chromatographed on a silica gel column eluted with a linear gradient beginning with EtOAc-hexane (3:7) and finishing with EtOAc-hexane (1:1). The appropriate fractions were determined by tlc, combined, and evaporated to dryness. This yielded 200 mg of the title compound as a tan amorphous solid.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-fluoro-4-methoxyphenyl]methanone | 1.2 mmol, 500 mg | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OC)F | C24H19FO4S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-fluoro-4-hydroxyphenyl]methanone | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)O)F | C23H17FO4S
